US07695525B2
Step 1: 4-Chloro-3,5-dimethyl-2-nitrophenol
4-Chloro-3,5-dimethyl-phenol (20.0 g, 128 mmol) was dissolved in glacial acid (150 ml) and the solution was cooled to 5° C. Then nitric acid 65% (12.4 g, 128 mmol) was added dropwise while temperature was kept below 20° C. by external cooling. After the addition was complete stirring was continued for 1 hour at ambient temperature. The reaction mixture was poured into ice/water (1:1, 500 g) whereupon an orange solid precipitated. The solid was filtered off, washed with water and dried. Yield: 23.2 g (90.1%). 1H-NMR (DMSO-d6): δ=11.0 (s, 1H); 6.9 (s, 1H); 2.3 (s, 3H); 2.2 ppm (s, 3H).

reactant | 4-Chloro-3,5-dimethyl-phenol | 128 mmol, 20.0 g | ClC1=C(C=C(C=C1C)O)C | C8H9ClO
reactant | nitric acid | 128 mmol, 12.4 g | [N+](=O)(O)[O-] | HNO3
product | 4-Chloro-3,5-dimethyl-2-nitrophenol | ClC1=C(C(=C(C=C1C)O)[N+](=O)[O-])C | C8H8ClNO3
